US09216999B2
4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
s-Butyllithium-hexane/cyclohexane solution (1.06 M, 27 mL, 29 mmol) was added to 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (5.74 g, 18.6 mmol) in tetrahydrofuran (50 mL) cooled to −78° C., and the reaction mixture was stirred for 1 hour. The reaction mixture was stirred with N,N-dimethylformamide (7.0 mL, 90 mmol) for another 1 hour and then with 4 M hydrogen chloride-1,4-dioxane solution (20 mL) for 30 minutes, and after addition of water, extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in dichloromethane (15 mL) and stirred with trifluoroacetic acid (15 mL) for one day. The reaction mixture was concentrated under reduced pressure, diluted with water and neutralized with saturated aqueous sodium hydrogen carbonate, and the residue was collected by filtration and dried under reduced pressure. The crude product was mixed with ethyl acetate (20 mL) and hexane (20 mL), and the solid was collected by filtration, washed with hexane and dried under reduced pressure to give the title compound as a pale yellow solid (2.72 g, yield 81%).

reactant | s-Butyllithium hexane cyclohexane | 29 mmol, 1.06 M, 27 mL | C(C)(CC)[Li].CCCCCC.C1CCCCC1
reactant | 4-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 18.6 mmol, 5.74 g | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | N,N-dimethylformamide | 90 mmol, 7.0 mL | CN(C=O)C | C3H7NO
reactant | hydrogen chloride-1,4-dioxane | 4 M, 20 mL | O1CCOCC1.Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 2.72 g, yield 81% | ClC1=C2C(=NC=C1C=O)NC=C2 | C8H5ClN2O
